US07737166B2
2-Cyclopropyl-6-(3,5-difluorophenyl)-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-1,3-benzoxazole-4-carbonitrile (#82)
2-Cyclopropyl-6-(3,5-difluorophenyl)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-176) (including impurities, estimated as 0.68 mmol) was dissolved in dimethyl sulfoxide (5 ml), then at room temperature, triethylamine (142 μl, 1.02 mmol) and (3S)-3-(dimethylamino)pyrrolidine (112 μl, 0.88 mmol) were added, the solution was stirred under nitrogen atmosphere at 90° C. for 15 hours. After cooling to room temperature, the reaction liquid was fractionated with ethyl acetate and an aqueous saturated sodium hydrogencarbonate solution. The aqueous layer was further extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, then the solvent was evaporated away, and the resulting residue was purified by preparative TLC (eluent, chloroform:methanol=96:4) to obtain a roughly-purified product (211 mg, 74% for 2 steps) as a white solid. This was recrystallized from ethyl acetate and diisopropyl ether to obtain the entitled compound (46 mg) as a white solid.

reactant | 2-Cyclopropyl-6-(3,5-difluorophenyl)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.68 mmol | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC(=CC(=C2)F)F)C)C#N | C18H11F3N2O
reactant | triethylamine | 1.02 mmol, 142 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.88 mmol, 112 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Cyclopropyl-6-(3,5-difluorophenyl)-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-1,3-benzoxazole-4-carbonitrile | 46 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C2=CC(=CC(=C2)F)F)C)C#N | C24H24F2N4O
